US07109229B2
(c) 3-(6-Ethoxy-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)acetamide (381 mg, 2.02 mmol) and methyl 2-(6-ethoxy-1H-indol-3-yl)oxoacetate (500 mg, 2.02 mmol) in DMF (17 mL) was added a 1.0 M solution of potassium tert-butoxide in THF (2.0 mL, 2.0 mmol) at 4° C. under N2. The reaction was stirred for 20 min at this temperature, and additional potassium tert-butoxide (1.0 M, 4.1 mL, 4.1 mmol) was added. The resulting dark purple solution was heated up to 70° C. over night. The mixture was cooled to 4° C. and quenched with 1.0 N hydrochloric acid (12 mL) and poured into EtOAc (500 mL). The organic layer was separated, dried (MgSO4), and concentrated to a red solid. Flash chromatography (SiO2, 30% EtOAc/hexanes) gave the title compound (200 mg, 26%) as a red solid, mp 212–215° C. 1H NMR (CDCl3) δ 8.44 (s, 1H), 7.88 (s, 1H), 7.68 (m, 1H), 7.60 (s, 1H), 7.00 (m, 2H), 6.92 (s, 1H), 6.72 (s, 1H), 6.52 (s, 1H), 6.32 (s, 2H), 3.92 (q, J=6.5 Hz, 2H), 3.72 (s, 3H), 1.38 (t, J=6.5 Hz, 3H). MS (ESI, Negative Mode): m/z=384 [C23H19N3O3−H]−

reactant | 2-(1-methyl-1H-indol-7-yl)acetamide | 2.02 mmol, 381 mg | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | methyl 2-(6-ethoxy-1H-indol-3-yl)oxoacetate | 2.02 mmol, 500 mg | C(C)OC1=CC=C2C(=CNC2=C1)C(C(=O)OC)=O | C13H13NO4
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 2.0 mmol, 2.0 mL | C1CCOC1 | C4H8O
reactant | potassium tert-butoxide | 4.1 mmol, 1.0 M, 4.1 mL | CC(C)([O-])C.[K+]
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | 3-(6-Ethoxy-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione | 200 mg, 26% | C(C)OC1=CC=C2C(=CNC2=C1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C23H19N3O3
